US07776847B2
N1-(Benzo[d]isothiazol-3-yl)propane-1,3-diamine (100 mg, 0.48 mmol) was dissolved in anhydrous dichloromethane (5 mL) with diisopropylethylamine (92 μL, 0.53 mmol). The solution was cooled on an ice-water bath and then a solution of 4-chlorobenzoyl chloride (68 μL, 0.53 mmol) in dichloromethane (0.5 mL) was added dropwise. The reaction mixture was allowed to stir for 2 h while warming to room temperature. The solution was washed with water, then dried over anhydrous sodium sulfate, filtered and the filtrate concentrated under reduced pressure. Purification by column chromatography, on silica gel, eluting with a mixture of 20% ethyl acetate in hexanes and selected fractions were combined and concentrated under reduced pressure to yield N-(3-(benzo[d]isothiazol-3-ylamino)propyl)-4-chlorobenzamide as a white solid, (73 mg). 1H NMR (300 MHz, DMSO-d6): 8.6 (broad s, 1H), 8.1 (d, 1H), 7.8 (m, 3H), 7.4 (m, 5H), 3.5 (m, 2H), 3.3 (m, 2H), 1.9 ppm (m, 2H). MW=346 confirmed by LC-MS, tr=3.97 min (Method B) MH+=347.

reactant | N1-(Benzo[d]isothiazol-3-yl)propane-1,3-diamine | 0.48 mmol, 100 mg | S1N=C(C2=C1C=CC=C2)NCCCN | C10H13N3S
reactant | diisopropylethylamine | 0.53 mmol, 92 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-chlorobenzoyl chloride | 0.53 mmol, 68 μL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | N-(3-(benzo[d]isothiazol-3-ylamino)propyl)-4-chlorobenzamide | S1N=C(C2=C1C=CC=C2)NCCCNC(C2=CC=C(C=C2)Cl)=O | C17H16ClN3OS
